* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.0108041614575441
Fd1_1 0 s1 V1 -0.540208072877205
Gr1_1_1 0 s1 x1_a1 0 -26606722.316899393
Gr2_re_1_1 0 s1 x2_re_a1 0 23809018.101539504
Gr2_im_1_1 0 s1 x2_im_a1 0 -37485569.79235017
Gr3_re_1_1 0 s1 x3_re_a1 0 53372094.53472362
Gr3_im_1_1 0 s1 x3_im_a1 0 68456521.89075466
Gr4_re_1_1 0 s1 x4_re_a1 0 592598.3961013034
Gr4_im_1_1 0 s1 x4_im_a1 0 951256.8591824307
Gr5_re_1_1 0 s1 x5_re_a1 0 -29156855.825744007
Gr5_im_1_1 0 s1 x5_im_a1 0 -21281485.015946854
Gd1_2 0 s1 p2 0 7.298648572477324e-05
Fd1_2 0 s1 V2 0.003649324286238662
Gr1_1_2 0 s1 x1_a2 0 -396171.24874688394
Gr2_re_1_2 0 s1 x2_re_a2 0 -127014.50714633462
Gr2_im_1_2 0 s1 x2_im_a2 0 259610.1594585564
Gr3_re_1_2 0 s1 x3_re_a2 0 -346451.32766506396
Gr3_im_1_2 0 s1 x3_im_a2 0 -1085777.1258048937
Gr4_re_1_2 0 s1 x4_re_a2 0 -8085.215474329599
Gr4_im_1_2 0 s1 x4_im_a2 0 -21799.508508580548
Gr5_re_1_2 0 s1 x5_re_a2 0 290660.68562903453
Gr5_im_1_2 0 s1 x5_im_a2 0 629640.9609867443
Gd1_3 0 s1 p3 0 -1.320018556702009e-07
Fd1_3 0 s1 V3 -6.600092783510045e-06
Gr1_1_3 0 s1 x1_a3 0 2833.7337975994665
Gr2_re_1_3 0 s1 x2_re_a3 0 -281.0367426897988
Gr2_im_1_3 0 s1 x2_im_a3 0 -325.58521526811853
Gr3_re_1_3 0 s1 x3_re_a3 0 3162.068855725427
Gr3_im_1_3 0 s1 x3_im_a3 0 2914.460556697397
Gr4_re_1_3 0 s1 x4_re_a3 0 -143.3852231269499
Gr4_im_1_3 0 s1 x4_im_a3 0 331.9406504010614
Gr5_re_1_3 0 s1 x5_re_a3 0 -2451.0678898127567
Gr5_im_1_3 0 s1 x5_im_a3 0 -2008.1228107682946
Gd1_4 0 s1 p4 0 -2.038034097594833e-07
Fd1_4 0 s1 V4 -1.0190170487974165e-05
Gr1_1_4 0 s1 x1_a4 0 4463.386616316569
Gr2_re_1_4 0 s1 x2_re_a4 0 -162.07864523548707
Gr2_im_1_4 0 s1 x2_im_a4 0 -53.96672311665112
Gr3_re_1_4 0 s1 x3_re_a4 0 2705.6685648039365
Gr3_im_1_4 0 s1 x3_im_a4 0 2054.7731271094353
Gr4_re_1_4 0 s1 x4_re_a4 0 280.2135170001881
Gr4_im_1_4 0 s1 x4_im_a4 0 -177.2287962700504
Gr5_re_1_4 0 s1 x5_re_a4 0 -2728.125603072618
Gr5_im_1_4 0 s1 x5_im_a4 0 -675.8900612838761
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 3.084465517032855e-09
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 2.1708399372788034e-08
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 266674408.9272114
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -266674408.9272114
Rp2_im_im_a1 0 x2_im_a1 2.1708399372788034e-08
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 2.46671496444701e-08
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 339027489.381081
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -339027489.381081
Rp3_im_im_a1 0 x3_im_a1 2.46671496444701e-08
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 3.401217607804216e-07
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 348610499.5699001
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -348610499.5699001
Rp4_im_im_a1 0 x4_im_a1 3.401217607804216e-07
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 5.091229498706019e-08
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 349826929.09439135
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -349826929.09439135
Rp5_im_im_a1 0 x5_im_a1 5.091229498706019e-08
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 7.248691068661809e-05
Fd2_1 0 s2 V1 0.0036243455343309048
Gr1_2_1 0 s2 x1_a1 0 -384120.7789535745
Gr2_re_2_1 0 s2 x2_re_a1 0 -125530.31085776951
Gr2_im_2_1 0 s2 x2_im_a1 0 258676.27119686722
Gr3_re_2_1 0 s2 x3_re_a1 0 -347766.87092264416
Gr3_im_2_1 0 s2 x3_im_a1 0 -1075333.9841945842
Gr4_re_2_1 0 s2 x4_re_a1 0 -8073.64845589668
Gr4_im_2_1 0 s2 x4_im_a1 0 -21573.743115551042
Gr5_re_2_1 0 s2 x5_re_a1 0 290189.49911629746
Gr5_im_2_1 0 s2 x5_im_a1 0 623195.6360437502
Gd2_2 0 s2 p2 0 -0.016863725696836633
Fd2_2 0 s2 V2 -0.8431862848418317
Gr1_2_2 0 s2 x1_a2 0 118325488.24871485
Gr2_re_2_2 0 s2 x2_re_a2 0 36281489.43799142
Gr2_im_2_2 0 s2 x2_im_a2 0 5350305.554051893
Gr3_re_2_2 0 s2 x3_re_a2 0 -11684551.694571367
Gr3_im_2_2 0 s2 x3_im_a2 0 35992265.244553015
Gr4_re_2_2 0 s2 x4_re_a2 0 9760.393536740008
Gr4_im_2_2 0 s2 x4_im_a2 0 28090.129504353983
Gr5_re_2_2 0 s2 x5_re_a2 0 -1818952.672319477
Gr5_im_2_2 0 s2 x5_im_a2 0 -2017411.680644968
Gd2_3 0 s2 p3 0 -1.95794121579598e-08
Fd2_3 0 s2 V3 -9.7897060789799e-07
Gr1_2_3 0 s2 x1_a3 0 308.4931409400347
Gr2_re_2_3 0 s2 x2_re_a3 0 21.124206951193504
Gr2_im_2_3 0 s2 x2_im_a3 0 54.95171458070932
Gr3_re_2_3 0 s2 x3_re_a3 0 -94.01187707943636
Gr3_im_2_3 0 s2 x3_im_a3 0 -43.71334310692885
Gr4_re_2_3 0 s2 x4_re_a3 0 3.5944433497564687
Gr4_im_2_3 0 s2 x4_im_a3 0 -5.655975977323255
Gr5_re_2_3 0 s2 x5_re_a3 0 38.539557827128526
Gr5_im_2_3 0 s2 x5_im_a3 0 40.422768902219296
Gd2_4 0 s2 p4 0 -4.020983836016498e-09
Fd2_4 0 s2 V4 -2.010491918008249e-07
Gr1_2_4 0 s2 x1_a4 0 -153.03949473510957
Gr2_re_2_4 0 s2 x2_re_a4 0 -1.620298493329683
Gr2_im_2_4 0 s2 x2_im_a4 0 -12.876861542768788
Gr3_re_2_4 0 s2 x3_re_a4 0 16.24059039932989
Gr3_im_2_4 0 s2 x3_im_a4 0 -74.7503722432218
Gr4_re_2_4 0 s2 x4_re_a4 0 -3.2966772036981014
Gr4_im_2_4 0 s2 x4_im_a4 0 2.831254632156766
Gr5_re_2_4 0 s2 x5_re_a4 0 17.70210775577128
Gr5_im_2_4 0 s2 x5_im_a4 0 42.670955580079585
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 3.084465517032855e-09
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 2.1708399372788034e-08
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 266674408.9272114
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -266674408.9272114
Rp2_im_im_a2 0 x2_im_a2 2.1708399372788034e-08
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 2.46671496444701e-08
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 339027489.381081
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -339027489.381081
Rp3_im_im_a2 0 x3_im_a2 2.46671496444701e-08
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 3.401217607804216e-07
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 348610499.5699001
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -348610499.5699001
Rp4_im_im_a2 0 x4_im_a2 3.401217607804216e-07
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 5.091229498706019e-08
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 349826929.09439135
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -349826929.09439135
Rp5_im_im_a2 0 x5_im_a2 5.091229498706019e-08
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 -8.527744827318409e-08
Fd3_1 0 s3 V1 -4.263872413659205e-06
Gr1_3_1 0 s3 x1_a1 0 2729.0125696671676
Gr2_re_3_1 0 s3 x2_re_a1 0 -320.26084424911915
Gr2_im_3_1 0 s3 x2_im_a1 0 -309.24167096174466
Gr3_re_3_1 0 s3 x3_re_a1 0 3097.7364769184173
Gr3_im_3_1 0 s3 x3_im_a1 0 2862.4107196979785
Gr4_re_3_1 0 s3 x4_re_a1 0 -143.87602631116036
Gr4_im_3_1 0 s3 x4_im_a1 0 329.91884276241444
Gr5_re_3_1 0 s3 x5_re_a1 0 -2422.1897441680026
Gr5_im_3_1 0 s3 x5_im_a1 0 -1998.399816784387
Gd3_2 0 s3 p2 0 2.8873585715258143e-08
Fd3_2 0 s3 V2 1.4436792857629073e-06
Gr1_3_2 0 s3 x1_a2 0 -326.1036725486052
Gr2_re_3_2 0 s3 x2_re_a2 0 12.091934831078198
Gr2_im_3_2 0 s3 x2_im_a2 0 -4.072748390980336
Gr3_re_3_2 0 s3 x3_re_a2 0 -39.55237190654303
Gr3_im_3_2 0 s3 x3_im_a2 0 -80.70514228261074
Gr4_re_3_2 0 s3 x4_re_a2 0 3.9958774799349475
Gr4_im_3_2 0 s3 x4_im_a2 0 -5.610311587748383
Gr5_re_3_2 0 s3 x5_re_a2 0 29.39146380118532
Gr5_im_3_2 0 s3 x5_im_a2 0 51.593006636186665
Gd3_3 0 s3 p3 0 -0.006352254699786482
Fd3_3 0 s3 V3 -0.31761273498932413
Gr1_3_3 0 s3 x1_a3 0 69078346.73480052
Gr2_re_3_3 0 s3 x2_re_a3 0 -14709301.498331608
Gr2_im_3_3 0 s3 x2_im_a3 0 -3025126.0472495654
Gr3_re_3_3 0 s3 x3_re_a3 0 14447859.951803356
Gr3_im_3_3 0 s3 x3_im_a3 0 1570656.810779658
Gr4_re_3_3 0 s3 x4_re_a3 0 2036.7097796861037
Gr4_im_3_3 0 s3 x4_im_a3 0 -46085.463441025546
Gr5_re_3_3 0 s3 x5_re_a3 0 -336519.9403329603
Gr5_im_3_3 0 s3 x5_im_a3 0 2466738.6324525652
Gd3_4 0 s3 p4 0 -4.656116656052399e-10
Fd3_4 0 s3 V4 -2.3280583280261998e-08
Gr1_3_4 0 s3 x1_a4 0 90.92120549604795
Gr2_re_3_4 0 s3 x2_re_a4 0 -3.6620679831339453
Gr2_im_3_4 0 s3 x2_im_a4 0 6.003432665541431
Gr3_re_3_4 0 s3 x3_re_a4 0 -9.208996612976488
Gr3_im_3_4 0 s3 x3_im_a4 0 4.38098456379343
Gr4_re_3_4 0 s3 x4_re_a4 0 -0.8128225084244655
Gr4_im_3_4 0 s3 x4_im_a4 0 -0.6916272279746971
Gr5_re_3_4 0 s3 x5_re_a4 0 3.3047480998817695
Gr5_im_3_4 0 s3 x5_im_a4 0 -0.4514610493297536
*
* State networks driven by port 3
Cx1_a3 x1_a3 0 1.0
Gx1_a3 0 x1_a3 p3 0 0.07071067811865475
Fx1_a3 0 x1_a3 V3 3.5355339059327378
Rp1_a3 0 x1_a3 3.084465517032855e-09
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562373095
Fx2_re_a3 0 x2_re_a3 V3 7.0710678118654755
Rp2_re_re_a3 0 x2_re_a3 2.1708399372788034e-08
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 266674408.9272114
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -266674408.9272114
Rp2_im_im_a3 0 x2_im_a3 2.1708399372788034e-08
Cx3_re_a3 x3_re_a3 0 1.0
Gx3_re_a3 0 x3_re_a3 p3 0 0.1414213562373095
Fx3_re_a3 0 x3_re_a3 V3 7.0710678118654755
Rp3_re_re_a3 0 x3_re_a3 2.46671496444701e-08
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 339027489.381081
Cx3_im_a3 x3_im_a3 0 1.0
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -339027489.381081
Rp3_im_im_a3 0 x3_im_a3 2.46671496444701e-08
Cx4_re_a3 x4_re_a3 0 1.0
Gx4_re_a3 0 x4_re_a3 p3 0 0.1414213562373095
Fx4_re_a3 0 x4_re_a3 V3 7.0710678118654755
Rp4_re_re_a3 0 x4_re_a3 3.401217607804216e-07
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 348610499.5699001
Cx4_im_a3 x4_im_a3 0 1.0
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -348610499.5699001
Rp4_im_im_a3 0 x4_im_a3 3.401217607804216e-07
Cx5_re_a3 x5_re_a3 0 1.0
Gx5_re_a3 0 x5_re_a3 p3 0 0.1414213562373095
Fx5_re_a3 0 x5_re_a3 V3 7.0710678118654755
Rp5_re_re_a3 0 x5_re_a3 5.091229498706019e-08
Gp5_re_im_a3 0 x5_re_a3 x5_im_a3 0 349826929.09439135
Cx5_im_a3 x5_im_a3 0 1.0
Gp5_im_re_a3 0 x5_im_a3 x5_re_a3 0 -349826929.09439135
Rp5_im_im_a3 0 x5_im_a3 5.091229498706019e-08
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 -1.872649959760426e-07
Fd4_1 0 s4 V1 -9.36324979880213e-06
Gr1_4_1 0 s4 x1_a1 0 4561.8631863025
Gr2_re_4_1 0 s4 x2_re_a1 0 -176.65926781899145
Gr2_im_4_1 0 s4 x2_im_a1 0 -49.331092450904116
Gr3_re_4_1 0 s4 x3_re_a1 0 2704.459014677472
Gr3_im_4_1 0 s4 x3_im_a1 0 2071.9425058879347
Gr4_re_4_1 0 s4 x4_re_a1 0 281.589163615127
Gr4_im_4_1 0 s4 x4_im_a1 0 -177.45543800143193
Gr5_re_4_1 0 s4 x5_re_a1 0 -2743.4951871089697
Gr5_im_4_1 0 s4 x5_im_a1 0 -687.8930086495573
Gd4_2 0 s4 p2 0 1.238108934732367e-08
Fd4_2 0 s4 V2 6.190544673661835e-07
Gr1_4_2 0 s4 x1_a2 0 -82.131474081754
Gr2_re_4_2 0 s4 x2_re_a2 0 -12.895451726065618
Gr2_im_4_2 0 s4 x2_im_a2 0 17.62591573630263
Gr3_re_4_2 0 s4 x3_re_a2 0 -48.76380366383235
Gr3_im_4_2 0 s4 x3_im_a2 0 -85.42383002898988
Gr4_re_4_2 0 s4 x4_re_a2 0 -6.945576386263116
Gr4_im_4_2 0 s4 x4_im_a2 0 2.692381069037543
Gr5_re_4_2 0 s4 x5_re_a2 0 48.90930331527089
Gr5_im_4_2 0 s4 x5_im_a2 0 36.75566092834569
Gd4_3 0 s4 p3 0 2.6455778982387417e-08
Fd4_3 0 s4 V3 1.3227889491193708e-06
Gr1_4_3 0 s4 x1_a3 0 -106.94747798396016
Gr2_re_4_3 0 s4 x2_re_a3 0 -23.76577187452037
Gr2_im_4_3 0 s4 x2_im_a3 0 -3.3218681764153195
Gr3_re_4_3 0 s4 x3_re_a3 0 1.1171548816781125
Gr3_im_4_3 0 s4 x3_im_a3 0 -39.591311332627534
Gr4_re_4_3 0 s4 x4_re_a3 0 0.7731818163021809
Gr4_im_4_3 0 s4 x4_im_a3 0 -1.3216381178536052
Gr5_re_4_3 0 s4 x5_re_a3 0 0.7808051402746382
Gr5_im_4_3 0 s4 x5_im_a3 0 14.723006464148769
Gd4_4 0 s4 p4 0 -0.006347321997483225
Fd4_4 0 s4 V4 -0.31736609987416126
Gr1_4_4 0 s4 x1_a4 0 69393887.96824636
Gr2_re_4_4 0 s4 x2_re_a4 0 -14696899.639474016
Gr2_im_4_4 0 s4 x2_im_a4 0 -2933261.81421937
Gr3_re_4_4 0 s4 x3_re_a4 0 14358898.071394794
Gr3_im_4_4 0 s4 x3_im_a4 0 1547803.8745301822
Gr4_re_4_4 0 s4 x4_re_a4 0 2081.391406254118
Gr4_im_4_4 0 s4 x4_im_a4 0 -46118.663120793506
Gr5_re_4_4 0 s4 x5_re_a4 0 -338316.0106505047
Gr5_im_4_4 0 s4 x5_im_a4 0 2466310.489585031
*
* State networks driven by port 4
Cx1_a4 x1_a4 0 1.0
Gx1_a4 0 x1_a4 p4 0 0.07071067811865475
Fx1_a4 0 x1_a4 V4 3.5355339059327378
Rp1_a4 0 x1_a4 3.084465517032855e-09
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562373095
Fx2_re_a4 0 x2_re_a4 V4 7.0710678118654755
Rp2_re_re_a4 0 x2_re_a4 2.1708399372788034e-08
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 266674408.9272114
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -266674408.9272114
Rp2_im_im_a4 0 x2_im_a4 2.1708399372788034e-08
Cx3_re_a4 x3_re_a4 0 1.0
Gx3_re_a4 0 x3_re_a4 p4 0 0.1414213562373095
Fx3_re_a4 0 x3_re_a4 V4 7.0710678118654755
Rp3_re_re_a4 0 x3_re_a4 2.46671496444701e-08
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 339027489.381081
Cx3_im_a4 x3_im_a4 0 1.0
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -339027489.381081
Rp3_im_im_a4 0 x3_im_a4 2.46671496444701e-08
Cx4_re_a4 x4_re_a4 0 1.0
Gx4_re_a4 0 x4_re_a4 p4 0 0.1414213562373095
Fx4_re_a4 0 x4_re_a4 V4 7.0710678118654755
Rp4_re_re_a4 0 x4_re_a4 3.401217607804216e-07
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 348610499.5699001
Cx4_im_a4 x4_im_a4 0 1.0
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -348610499.5699001
Rp4_im_im_a4 0 x4_im_a4 3.401217607804216e-07
Cx5_re_a4 x5_re_a4 0 1.0
Gx5_re_a4 0 x5_re_a4 p4 0 0.1414213562373095
Fx5_re_a4 0 x5_re_a4 V4 7.0710678118654755
Rp5_re_re_a4 0 x5_re_a4 5.091229498706019e-08
Gp5_re_im_a4 0 x5_re_a4 x5_im_a4 0 349826929.09439135
Cx5_im_a4 x5_im_a4 0 1.0
Gp5_im_re_a4 0 x5_im_a4 x5_re_a4 0 -349826929.09439135
Rp5_im_im_a4 0 x5_im_a4 5.091229498706019e-08
.ENDS s_equivalent
