* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.057476471046411404
Fd1_1 0 s1 V1 -2.8738235523205704
Gr1_1_1 0 s1 x1_a1 0 -814246738993.2671
Gr2_re_1_1 0 s1 x2_re_a1 0 -3843545.5907071973
Gr2_im_1_1 0 s1 x2_im_a1 0 15753785.284225551
Gr3_re_1_1 0 s1 x3_re_a1 0 22546012141.004642
Gr3_im_1_1 0 s1 x3_im_a1 0 4751379591.452638
Gr4_1_1 0 s1 x4_a1 0 17423405336.17862
Gr5_1_1 0 s1 x5_a1 0 9.26021063734746e-22
Gd1_2 0 s1 p2 0 0.003912212083902722
Fd1_2 0 s1 V2 0.19561060419513612
Gr1_1_2 0 s1 x1_a2 0 222568493954.47
Gr2_re_1_2 0 s1 x2_re_a2 0 -8271111.45193899
Gr2_im_1_2 0 s1 x2_im_a2 0 -3791424.461466093
Gr3_re_1_2 0 s1 x3_re_a2 0 471660736.48520195
Gr3_im_1_2 0 s1 x3_im_a2 0 8275443525.276399
Gr4_1_2 0 s1 x4_a2 0 -398393414.0675834
Gr5_1_2 0 s1 x5_a2 0 -9.568883386341124e-23
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.339339273848885e-13
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 4.7730947895316944e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 215346340932.95978
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -215346340932.95978
Rp2_im_im_a1 0 x2_im_a1 4.7730947895316944e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 6.079962635318972e-12
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 80084578380.88353
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -80084578380.88353
Rp3_im_im_a1 0 x3_im_a1 6.079962635318972e-12
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 4.362540928592597e-11
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 218619.02560138676
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.08272608540001294
Fd2_1 0 s2 V1 4.136304270000647
Gr1_2_1 0 s2 x1_a1 0 445229650378.21185
Gr2_re_2_1 0 s2 x2_re_a1 0 -39608838.81200776
Gr2_im_2_1 0 s2 x2_im_a1 0 -27572152.870850082
Gr3_re_2_1 0 s2 x3_re_a1 0 -13673452145.359028
Gr3_im_2_1 0 s2 x3_im_a1 0 60966001857.43225
Gr4_2_1 0 s2 x4_a1 0 -19069784617.25713
Gr5_2_1 0 s2 x5_a1 0 -1.6057322459238188e-21
Gd2_2 0 s2 p2 0 -0.06074432922052253
Fd2_2 0 s2 V2 -3.037216461026127
Gr1_2_2 0 s2 x1_a2 0 -475469996847.09375
Gr2_re_2_2 0 s2 x2_re_a2 0 -42134286.87446715
Gr2_im_2_2 0 s2 x2_im_a2 0 30523966.648451425
Gr3_re_2_2 0 s2 x3_re_a2 0 22260071739.812088
Gr3_im_2_2 0 s2 x3_im_a2 0 38658113143.58104
Gr4_2_2 0 s2 x4_a2 0 22311532956.411243
Gr5_2_2 0 s2 x5_a2 0 9.118628759516298e-22
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.339339273848885e-13
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 4.7730947895316944e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 215346340932.95978
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -215346340932.95978
Rp2_im_im_a2 0 x2_im_a2 4.7730947895316944e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 6.079962635318972e-12
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 80084578380.88353
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -80084578380.88353
Rp3_im_im_a2 0 x3_im_a2 6.079962635318972e-12
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 4.362540928592597e-11
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 218619.02560138676
.ENDS s_equivalent
