* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.0007648835557876346
Fd1_1 0 s1 V1 -0.03824417778938173
Gr1_1_1 0 s1 x1_a1 0 -13673783020.488234
Gr2_1_1 0 s1 x2_a1 0 -50560586388.39462
Gr3_re_1_1 0 s1 x3_re_a1 0 -1487942550.4902692
Gr3_im_1_1 0 s1 x3_im_a1 0 2882417981.8792596
Gr4_re_1_1 0 s1 x4_re_a1 0 42221.8577804543
Gr4_im_1_1 0 s1 x4_im_a1 0 -30473.41291595477
Gr5_1_1 0 s1 x5_a1 0 12097618398.11908
Gr6_1_1 0 s1 x6_a1 0 -10213095.955370538
Gr7_1_1 0 s1 x7_a1 0 -4.0163793493539884e-20
Gd1_2 0 s1 p2 0 -0.0008201304678562526
Fd1_2 0 s1 V2 -0.04100652339281263
Gr1_1_2 0 s1 x1_a2 0 705667901.431825
Gr2_1_2 0 s1 x2_a2 0 -8783040989.256685
Gr3_re_1_2 0 s1 x3_re_a2 0 -2158019749.0729146
Gr3_im_1_2 0 s1 x3_im_a2 0 4018405631.353175
Gr4_re_1_2 0 s1 x4_re_a2 0 0.05921924051484282
Gr4_im_1_2 0 s1 x4_im_a2 0 0.09980062105157873
Gr5_1_2 0 s1 x5_a2 0 12393409118.411945
Gr6_1_2 0 s1 x6_a2 0 -3.5733829725352955
Gr7_1_2 0 s1 x7_a2 0 -1.0126940958125259e-20
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.085769618526156e-12
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 5.009693645443956e-12
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 2.560086397723619e-11
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 143834434755.46066
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -143834434755.46066
Rp3_im_im_a1 0 x3_im_a1 2.560086397723619e-11
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.875236791951263e-09
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 33954112790.627472
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -33954112790.627472
Rp4_im_im_a1 0 x4_im_a1 1.875236791951263e-09
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 2.899001793199352e-11
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 8.078366653029965e-11
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 1831298.0406689388
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -0.0008201304678562526
Fd2_1 0 s2 V1 -0.04100652339281263
Gr1_2_1 0 s2 x1_a1 0 705667901.431825
Gr2_2_1 0 s2 x2_a1 0 -8783040989.256685
Gr3_re_2_1 0 s2 x3_re_a1 0 -2158019749.0729146
Gr3_im_2_1 0 s2 x3_im_a1 0 4018405631.353175
Gr4_re_2_1 0 s2 x4_re_a1 0 0.05921924051484282
Gr4_im_2_1 0 s2 x4_im_a1 0 0.09980062105157873
Gr5_2_1 0 s2 x5_a1 0 12393409118.411945
Gr6_2_1 0 s2 x6_a1 0 -3.5733829725352955
Gr7_2_1 0 s2 x7_a1 0 -1.0126940958125259e-20
Gd2_2 0 s2 p2 0 -0.0007344825178998379
Fd2_2 0 s2 V2 -0.036724125894991896
Gr1_2_2 0 s2 x1_a2 0 281474790093.9417
Gr2_2_2 0 s2 x2_a2 0 -227356846254.83594
Gr3_re_2_2 0 s2 x3_re_a2 0 9619044081.917665
Gr3_im_2_2 0 s2 x3_im_a2 0 -13041783287.543736
Gr4_re_2_2 0 s2 x4_re_a2 0 42221.544796864786
Gr4_im_2_2 0 s2 x4_im_a2 0 -30473.191060961242
Gr5_2_2 0 s2 x5_a2 0 12953316410.487127
Gr6_2_2 0 s2 x6_a2 0 -10213027.24656449
Gr7_2_2 0 s2 x7_a2 0 -2.929761921532533e-19
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.085769618526156e-12
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 5.009693645443956e-12
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 2.560086397723619e-11
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 143834434755.46066
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -143834434755.46066
Rp3_im_im_a2 0 x3_im_a2 2.560086397723619e-11
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.875236791951263e-09
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 33954112790.627472
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -33954112790.627472
Rp4_im_im_a2 0 x4_im_a2 1.875236791951263e-09
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 2.899001793199352e-11
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 8.078366653029965e-11
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 1831298.0406689388
.ENDS s_equivalent
